US08975277B2
Carbonic acid 4-nitro-phenyl ester (S)-2,2,2-trifluoro-1-methyl-ethyl ester
Triethylamine (2.3 mL) is added to a solution of 4-dimethylaminopyridine (13 mg), (S)-1,1,1-trifluoro-propan-2-ol (75% in tert-butyl methyl ether; 2.00 g), and 4-nitrophenyl chloroformate (2.90 g) in dichloromethane (80 mL) chilled in an ice bath. The solution is stirred in the cooling bath for 30 min and then at room temperature overnight. The solution is washed with 10% aqueous K2CO3 solution and water and dried (MgSO4). The solvent is evaporated and the residue is chromatographed on silica gel (dichloromethane) to give the title compound.

reactant | Triethylamine | 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-1,1,1-trifluoro-propan-2-ol | 2.00 g | FC([C@H](C)O)(F)F | C3H5F3O
reactant | 4-nitrophenyl chloroformate | 2.90 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
catalyst | 4-dimethylaminopyridine | 13 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | Carbonic acid 4-nitro-phenyl ester (S)-2,2,2-trifluoro-1-methyl-ethyl ester | FC([C@H](C)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C10H8F3NO5
